US07141561B2
1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)imidazolidin-2-one
Palladium(II) hydroxide (20 mg) was added to a solution of 1-(4-(2-dimethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (50 mg) in ethanol (5 mL) under nitrogen. The nitrogen atmosphere was replaced by hydrogen and the mixture was shaken for 8 hours. The catalyst was filtered off and the filtrate was concentrated. The product with the molecular weight of 417.51 (C25H27N3O3); MS (ESI): 418 ([M+H]+), was obtained in this way.

reactant | 1-(4-(2-dimethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 50 mg | CN(CCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H25N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Palladium(II) hydroxide | 20 mg | [OH-].[Pd+2].[OH-]
product | 1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)imidazolidin-2-one | CN(CCOC1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H27N3O3
